US08008303B2
(S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester
A mixture of (S)-2-(4′-Carboxy-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester (50 mg), 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine (29 mg), HBTU (61 mg) and N-methyl morpholine (0.033 ml) in dry DMF (3 ml) was stirred at room temp for 18 h. Water (10 ml) was then added and the cream solid collected by filtration and used without purification or characterisation.

reactant | (S)-2-(4′-Carboxy-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(=O)O)=O | C23H23F3N2O6
reactant | 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine | 29 mg | CS(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3O2S
reactant | HBTU | 61 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl morpholine | 0.033 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | Water | 10 ml | O | H2O
product | (S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)C)=O)=O | C35H40F3N5O7S
